US03985895
10.0 G. of 3-{ (dibenzo[b,e]thiepin-11(6H)-yliden)-amino}-1-propanol in 30 ml. of absolute pyridine are treated at 0° C. within 1 hour with 9.0 g. of p-toluenesulfonyl chloride. The solution is stirred at 0° C. for 1 hour and subsequently left to stand at 0° C. for 16 hours. The mixture is then diluted with methylene chloride and treated with water. The organic phase is washed with aqueous sodium bicarbonate solution, dried over sodium sulfate and evaporated under reduced pressure. There is obtained crude 3-{(dibenzo[b,e]thiepin-11(6H)-yliden)-amino}-propyl tosylate which is used in the reaction described in the first paragraph of this Example without further purification.

reactant | 3-{ (dibenzo[b,e]thiepin-11(6H)-yliden)-amino}-1-propanol | C1=CC=CC=2SCC3=C(C(C21)=NCCCO)C=CC=C3 | C17H17NOS
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-{(dibenzo[b,e]thiepin-11(6H)-yliden)-amino}-propyl tosylate | S(=O)(=O)(OCCCN=C1C2=C(SCC3=C1C=CC=C3)C=CC=C2)C2=CC=C(C)C=C2 | C24H23NO3S2
